US07176216B2
7-Bromo-2-ethylpyrazolo[1,5-a]pyridine
To a solution of 2-ethylpyrazolo[1,5-a]pyridine (80 mg) dissolved in tetrahydrofuran (1 mL) was added n-butyllithium (1.6M hexane solution: 0.58 mL) dropwise at −78° C. under a nitrogen stream, and the reaction mixture was further stirred for 30 minutes at the same temperature. A solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (196 mg) in tetrahydrofuran (0.5 mL) was added dropwise to the reaction mixture, and stirring was continued for 30 minutes. After raising the temperature to room temperature and adding water to the reaction mixture, extraction was performed with ethyl acetate and the organic extract was washed with water and brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (90 mg) was obtained as a light brown oil from the n-hexane:ethyl acetate (20:1) fraction.

reactant | 2-ethylpyrazolo[1,5-a]pyridine | 80 mg | C(C)C1=NN2C(C=CC=C2)=C1 | C9H10N2
reactant | n-butyllithium | 1.6M, 0.58 mL | C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 196 mg | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 7-Bromo-2-ethylpyrazolo[1,5-a]pyridine | 90 mg | BrC1=CC=CC=2N1N=C(C2)CC | C9H9BrN2
